US09119868B2
Step 3: 6-(N-(4-amino-3-(methylsulfonyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
To a solution of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-(methylsulfonyl)-4-nitrophenyl)methylsulfonamido)benzofuran-3-carboxamide (0.7 g, 1.164 mmol) in 1:1 EtOH/Ethyl acetate (10 mL) was added tin(II) chloride (1.324 g, 6.98 mmol). The reaction was heated at 70° C. for 3 h. Solvent was evaporated and the reaction was partitioned between EtOAc and water. The resulting semi viscous mass was filtered (6 h) and the solid obtained (0.5 g, 75%) was progressed as is to the next step. LCMS (m/z, ES+)=572 (M+H+).

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-(methylsulfonyl)-4-nitrophenyl)methylsulfonamido)benzofuran-3-carboxamide | 1.164 mmol, 0.7 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)[N+](=O)[O-])S(=O)(=O)C | C27H24FN3O8S2
reactant | tin(II) chloride | 6.98 mmol, 1.324 g | [Sn](Cl)Cl
solvent | EtOH Ethyl acetate | 10 mL | CCO.C(C)(=O)OCC
product | 6-(N-(4-amino-3-(methylsulfonyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)S(=O)(=O)C | C27H26FN3O6S2
